US05510345
After adding 2.00 g (3.81 mmoles) of 1- (3α,16α)-eburnamenine-14-carbonyl!-4-(2,4-dichloro-6-pyrimidinyl)piperazine in small portions to 20 ml of pyrrolidine at a temperature below 10° C., the reaction mixture is stirred at room temperature for 1 hour, then evaporated. After distributing the evaporation residue between 40 ml of chloroform and 10 ml of 1% sodium hydroxide solution the organic phase is separated, dried and evaporated. The evaporation residue is subjected to chromatography on a silica gel column. By using a 99:1 mixture of chloroform and methanol the less polar 1- (3α,16α)-eburnamenine-14-carbonyl!-4-(4-chloro-2-pyrrolidino-6-pyrimidinyl)piperazine is first eluted from the column, which is recrystallized from a mixture of ether and hexane to give a yield of 2.01 g (88.2%), m.p.: 210°-220° C. By further elution the more polar 1- (3α,16α)-eburnamenine-14-carbonyl!-4-(2-chloro-4-pyrrolidino-6-pyrimidinyl)piperazine is obtained which is similarly recrystallized from a mixture of ether and hexane to give a yield of 0.13 g (5.7%), m.p.: 169°-200° C.

reactant | 4-(2,4-dichloro-6-pyrimidinyl)piperazine | ClC1=NC(=CC(=N1)Cl)N1CCNCC1 | C8H10Cl2N4
reactant | pyrrolidine | 20 ml | N1CCCC1 | C4H9N
product | 4-(2-chloro-4-pyrrolidino-6-pyrimidinyl)piperazine | ClC1=NC(=CC(=N1)N1CCCC1)N1CCNCC1 | C12H18ClN5
